US07524813B2
Hydrazine hydrate (0.14 ml, 2.96 mmol) was added to a solution of 2-[2-(1-(hexadecanoyl)piperidin-4-yl)ethoxy]isoindole-1,3-dione (1.52 g, 2.96 mmol) in ethanol (30 ml). The reaction mixture was heated to reflux for 75 min and cooled to room temperature. The formed precipitation was removed by filtration. The solvent of the filtrate was removed in vacuo. The crude product was purified by flash chromatography on silica (30 g), using a mixture of dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 800 mg of 1-[4-(2-(aminooxy)ethyl)piperidin-1-yl]hexadecan-1-one.

reactant | Hydrazine hydrate | 2.96 mmol, 0.14 ml | O.NN
reactant | 2-[2-(1-(hexadecanoyl)piperidin-4-yl)ethoxy]isoindole-1,3-dione | 2.96 mmol, 1.52 g | C(CCCCCCCCCCCCCCC)(=O)N1CCC(CC1)CCON1C(C2=CC=CC=C2C1=O)=O | C31H48N2O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-[4-(2-(aminooxy)ethyl)piperidin-1-yl]hexadecan-1-one | 800 mg | NOCCC1CCN(CC1)C(CCCCCCCCCCCCCCC)=O | C23H46N2O2
